US07902401B2
(2R)-2-Amino-3-(difluoromethoxy)propanoic acid (680 mg, 4.39 mmol) was mixed with sodium bicarbonate (738 mg. 8.78 mmol) and acetic anhydride (491 mg, 4.82 mmol) in water (10 mL) and dioxane (10 mL) at 0° C. to room temperature overnight. The reaction mixture was acidified with 1N HCl to pH2, concentrated and extracted with ethyl acetate, and concentrated again to give (2R)-2-(Acetylamino)-3-(difluoromethoxy)propanoic acid (580 mg, 82.3%) as a colorless sticky oil. 1H NMR (300 MHz, CDCl3): δ(ppm) 6.40 (d, 1H), 6.24 (wt, 1H), 4.88 (m, 1H), 4.36 (dd, 1H), 4.22 (dd, 1H), 2.12 (s, 3H).

reactant | (2R)-2-Amino-3-(difluoromethoxy)propanoic acid | 4.39 mmol, 680 mg | N[C@@H](C(=O)O)COC(F)F | C4H7F2NO3
reactant | sodium bicarbonate | 8.78 mmol, 738 mg | C([O-])(O)=O.[Na+]
reactant | acetic anhydride | 4.82 mmol, 491 mg | C(C)(=O)OC(C)=O | C4H6O3
reactant | HCl | 1N | Cl | ClH
solvent | water | 10 mL | O | H2O
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | (2R)-2-(Acetylamino)-3-(difluoromethoxy)propanoic acid | 580 mg, 82.3% | C(C)(=O)N[C@@H](C(=O)O)COC(F)F | C6H9F2NO4
